US04510069
30.4 g of 1-pentyl-4-(trans-4-pentylcyclohexyl)-cyclohexene [obtainable by reacting 4-(trans-4-pentylcyclohexyl)-cyclohexanone with pentyl-MgBr, hydrolysing the product to give 1-pentyl-4-(trans-4-pentylcyclohexyl)-cyclohexanol and dehydrating the latter], 2.7 g of liquid HCN, 0.1 g of palladium bis-[2,3-0-isopropylidene-2,3-dihydroxy-1,4-bis-(diphenylphosphino)-butane] and 100 ml of acetonitrile are heated at 130° for 1 hour in an autoclave. The mixture is cooled, evaporated and worked up in the customary manner to give r-1-cyano-1-pentyl-cis-4-(trans-4-pentylcyclohexyl)-cyclohexane, m.p. 28°, c.p. 63°.

reactant | 1-pentyl-4-(trans-4-pentylcyclohexyl)-cyclohexene | 30.4 g | C(CCCC)C1=CCC(CC1)[C@@H]1CC[C@H](CC1)CCCCC | C22H40
reactant | 4-(trans-4-pentylcyclohexyl)-cyclohexanone | C(CCCC)[C@@H]1CC[C@H](CC1)C1CCC(CC1)=O | C17H30O
product | 1-pentyl-4-(trans-4-pentylcyclohexyl)-cyclohexanol | C(CCCC)C1(CCC(CC1)[C@@H]1CC[C@H](CC1)CCCCC)O | C22H42O
